USRE029556
15 Parts of 2,2-diphenyl-4-bromobutyronitrile are condensed with 12.9 parts of 7-azabicyclo[2.2.1]heptane by reflux in 100 parts by volume of ethylene glycol monomethyl ether. The reaction mixture is cooled and extracted with dilute hydrochloric acid. The aqueous hydrochloric acid extract is made basic with sodium hydroxide solution and extracted with ether. The ether extracts are dried over anhydrous sodium sulfate. Filtration and removal of the ether by evaporation at reduced pressure provides 2,2-diphenyl-4-(7-azabicyclo[2.2.1]hept-7-yl)butyronitrile, melting at 79°-81°. 4.9 Parts of this butyronitrile, 1.5 parts of sodium azide, 1.2 parts of ammonium chloride, and 0.023 part of lithium chloride are placed in 50 parts by volume of dimethylformamide and heated at 125° for 12 hours. The mixture is cooled and the solid is filtered from the dimethylformamide. The solid is washed with dimethylformamide and water. The dried solid is 5-{[1,1-diphenyl-3-(7-azabicyclo[2.2.1]hept-7 -yl)]propyl}-1H-tetrazole, melting at 284°-286°.

reactant | 2,2-diphenyl-4-bromobutyronitrile | C1(=CC=CC=C1)C(C#N)(CCBr)C1=CC=CC=C1 | C16H14BrN
reactant | 7-azabicyclo[2.2.1]heptane | C12CCC(CC1)N2 | C6H11N
solvent | ethylene glycol monomethyl ether | COCCO | C3H8O2
product | 2,2-diphenyl-4-(7-azabicyclo[2.2.1]hept-7-yl)butyronitrile | C1(=CC=CC=C1)C(C#N)(CCN1C2CCC1CC2)C2=CC=CC=C2 | C22H24N2
